US09422240B2
(1) Synthesis of 2-cyclopropyl-1-[4-(hydroxymethyl)piperidin-1-yl]ethanone
Instead of 4-(bromomethyl)benzoic acid and N,O-dimethylhydroxylamine hydrochloride, cyclopropylacetic acid (869 mg) and 4-piperidinemethanol (1.00 g) were respectively used and treated by the same technique as in Reference Example 16-1(1) to give the titled compound as a colorless oil (1.25 g).

reactant | 4-(bromomethyl)benzoic acid | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | N,O-dimethylhydroxylamine hydrochloride | Cl.CNOC
reactant | cyclopropylacetic acid | 869 mg | C1(CC1)CC(=O)O | C5H8O2
reactant | 4-piperidinemethanol | 1.00 g | N1CCC(CC1)CO | C6H13NO
product | 2-cyclopropyl-1-[4-(hydroxymethyl)piperidin-1-yl]ethanone | 1.25 g | C1(CC1)CC(=O)N1CCC(CC1)CO | C11H19NO2
